US09029548B2
Lenalidomide (200 mg, 0.771 mmol) was taken up in 5 mL of CH3CN and 2 mL of DMF along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (DHA, 253 mg, 0.771 mmol), HATU (322 mg, 0.848 mmol) and DIEA (200 μL, 2.3 mmol). The resulting reaction mixture was stirred at room temperature for 3 h and diluted with EtOAc (20 mL). The organic layer was washed with water (3×5 mL), brine, dried (Na2SO4) and concentrated under reduced pressure. Purification by silica gel chromatography (95% CH2Cl2, 5% MeOH) afforded 280 mg of (4Z,7Z,10Z,13Z,16Z,19Z)-N-(2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-4-yl)docosa-4,7,10,13,16,19-hexaenamide (63%). MS (EI) calculated for C35H43N3O4: 569.33; found: [M+H]+ 570.

reactant | Lenalidomide | 0.771 mmol, 200 mg | C=1C=C2C(=C(C1)N)CN(C2=O)C3CCC(=O)NC3=O | C13H13N3O3
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 0.771 mmol, 253 mg | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | HATU | 0.848 mmol, 322 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.3 mmol, 200 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (4Z,7Z,10Z,13Z,16Z,19Z)-N-(2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-4-yl)docosa-4,7,10,13,16,19-hexaenamide | 280 mg, 63% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1)NC(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O)=O)=O | C35H43N3O4
